US09315521B2
(2-chloro-4-nitrophenyl)methanol (707 mg, 3.73 mmol) was dissolved in dichloromethane (15 mL) at 0° C. under nitrogen. Tribromophosphane (0.7 mL, 7.46 mmol) was added dropwise. The resulting mixture was stirred at room temperature overnight. The reaction was quenched by addition of 10% NaHCO3 solution (2 mL). After 10 minutes, Na2SO4 (15 g) was added. The solvent was filtered and evaporated to provide 1-(bromomethyl)-2-chloro-4-nitrobenzene, which was used without further purification.

reactant | (2-chloro-4-nitrophenyl)methanol | 3.73 mmol, 707 mg | ClC1=C(C=CC(=C1)[N+](=O)[O-])CO | C7H6ClNO3
reactant | Tribromophosphane | 7.46 mmol, 0.7 mL | BrP(Br)Br | Br3P
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 1-(bromomethyl)-2-chloro-4-nitrobenzene | BrCC1=C(C=C(C=C1)[N+](=O)[O-])Cl | C7H5BrClNO2
